US07176224B2
B. 2-Phenoxy-3-(naphthalen-1-yl)-2-methylpropionic acid ethyl ester
2-Phenoxy-3-(4-benzyloxynaphthalen-1-yl)-2-methylpropionic acid ethyl ester (1.55 g, 3.5 mmol) was dissolved in ethyl acetate (50 mL) and treated with 5% palladium on carbon (400 mg), and stirred under an atmosphere of hydrogen for 20 h. The suspension was filtered through celite and concentrated in vacuo to a golden oil (1.20 g, 98%) 1H NMR (300 MHz, CDCl3): δ 8.14 (d, 1H, J=8.3), 8.10 (d, 1H, J=8.3), 7.46 (t, 1H, J=8.3), 7.42 (t, 1H, J=8.3), 7.21 (d, 1H, J=7.8), 7.12 (dd, 2H, J=8.8, 7.4), 6.87 (t, 1H, J=7.4), 6.70 (m, 3H), 4.05 (q, 2H, J=6.8), 3.65 (d, 1H, J=14.2), 3.54 (d, 1H, J=14.2), 1.37 (s, 3H), 1.17 (t, 3H, J=6.8). MS [EI+] 373 (M+Na)+, [EI−] 349 (M−H).

reactant | 2-Phenoxy-3-(4-benzyloxynaphthalen-1-yl)-2-methylpropionic acid ethyl ester | 3.5 mmol, 1.55 g | C(C)OC(C(CC1=CC=C(C2=CC=CC=C12)OCC1=CC=CC=C1)(C)OC1=CC=CC=C1)=O | C29H28O4
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 400 mg | [Pd] | Pd
product | 2-Phenoxy-3-(naphthalen-1-yl)-2-methylpropionic acid ethyl ester | C(C)OC(C(CC1=CC=CC2=CC=CC=C12)(C)OC1=CC=CC=C1)=O | C22H22O3
